US04762844
1. 2,5-Dichloro-4-methyl-3-nitrobenzoic acid
41 g of 2,5-dichloro-4-methylbenzoic acid are added in portions to a mixture of 100 ml of concentrated H2SO4 and 20 ml of 68% strength HNO3. The mixture is kept at 50° for 3 hours and then poured onto 600 g of ice. The solid which has precipitated is isolated, dried and stirred with a little toluene. Melting point: 210°-18°, yield: 43.8 g.

reactant | 2,5-dichloro-4-methylbenzoic acid | 41 g | ClC1=C(C(=O)O)C=C(C(=C1)C)Cl | C8H6Cl2O2
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
product | 2,5-Dichloro-4-methyl-3-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C)Cl | C8H5Cl2NO4
